US08877782B2
N-(1,1-Dioxo-tetrahydro-thiophen-3-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using 1,1-dioxo-tetrahydro-thiophen-3-ylamine instead of methylamine, to the title compound (150 mg, 54%) which was obtained as a white solid. MS: m/e=428.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 1,1-dioxo-tetrahydro-thiophen-3-ylamine | O=S1(CC(CC1)N)=O | C4H9NO2S
product | N-(1,1-Dioxo-tetrahydro-thiophen-3-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 150 mg, 54% | O=S1(CC(CC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O)=O | C21H21N3O5S
